US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-methylnitrobenzene
To a solution of 1-t-butoxycarbonyl-4-hydroxypiperidine (3.62 g), 2-methyl-4-nitrophenol (2.55 g) and triphenylphosphine (5.25 g) in dichloromethane (100 ml) was added dropwise diethyl azodicarboxylate (3.2 ml) in an ice bath and the mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated in vacuo. The residue was purified by chromatography on a silica gel column using dichloromethane as an eluant to give the crude desired compound (4.07 g) as a pale yellow oil.

reactant | 1-t-butoxycarbonyl-4-hydroxypiperidine | 3.62 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 2-methyl-4-nitrophenol | 2.55 g | CC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H7NO3
reactant | triphenylphosphine | 5.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 3.2 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-methylnitrobenzene | 4.07 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])C | C17H24N2O5
